US04245097
A solution of 14.0 g. of 1-methanesulfonyloxy-10-undecene and 19.8 g. of ethyl p-aminobenzoate in hexamethylphosphoramide is heated at 120° C. for 20 hours. After cooling the reaction mixture is diluted with ethanol:water (1:1) (30 ml.) and chilled. More ethanol is added and the solid material is collected. This solid is recrystallized from ethanol to yield ethyl 4-(10-undecenylamino)benzoate as a white solid.

reactant | 1-methanesulfonyloxy-10-undecene | CS(=O)(=O)OCCCCCCCCCC=C | C12H24O3S
reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | ethanol | C(C)O | C2H6O
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | ethanol water | 30 ml | C(C)O.O
product | ethyl 4-(10-undecenylamino)benzoate | C(CCCCCCCCC=C)NC1=CC=C(C(=O)OCC)C=C1 | C20H31NO2
